US04251539
3-Ethyl-5-[2-(2-hydroxy-3-tert.-butylaminopropoxy)-styryl]-isoxazole
7 g (0.026 mole) of 3-ethyl-5-[2-(2,3-epoxypropoxy)-styryl]-isoxazole and 3.0 g (0.04 mole) of tert.-butylamine are reacted by the method described for Example 4. 6.6 g (66% of theory), melting point 163°-164° C.

reactant | 3-ethyl-5-[2-(2,3-epoxypropoxy)-styryl]-isoxazole | 0.026 mole, 7 g | C(C)C1=NOC(=C1)C=CC1=C(C=CC=C1)OCC1CO1 | C16H17NO3
reactant | tert.-butylamine | 0.04 mole, 3.0 g | C(C)(C)(C)N | C4H11N
product | 3-Ethyl-5-[2-(2-hydroxy-3-tert.-butylaminopropoxy)-styryl]-isoxazole | C(C)C1=NOC(=C1)C=CC1=C(C=CC=C1)OCC(CNC(C)(C)C)O | C20H28N2O3
